* mkiic+.asc
R5 N004 N015 100k
R5A N008 N007 100k
RA_VOLUME1 N020 N008 {1Meg*(vol1)}
RC_VOLUME1 0 N020 {1Meg*(vol1)}
C6 N005 N004 750p
C5 N005 N004 250p
C4 N016 N015 .1µ
C3 N028 N015 .047µ
C13B N020 N008 180p
RA_TREBLE N005 N007 {250k*(1-treble)}
RC_TREBLE N007 N016 {250k*(treble)}
RA_BASS N016 N028 {250k*(bass)}
RA_MID N028 0 {10k*(mid)}
V1 N019 0 wavefile=di-cut.wav
VE N003 0 405
R4 N003 N004 150k
XV1A N004 N019 N033 12AX7
R1 N019 0 1Meg
R2 N033 0 1.5k
C1 N033 0 .47µ
C2 N033 0 22µ
XV1B N009 N020 N027 12AX7
C13 N027 0 22µ
R7 N027 0 1.5k
R8 N003 N009 100k
C7 N001 N009 .1µ
R9 N001 0 100k
R21 N011 N024 680k
RA_LEAD_DRIVE N024 N029 {1Meg*(1-gain)}
RC_LEAD_DRIVE N029 0 {1Meg*(gain)}
R22 N029 0 475k
C22 N035 N029 120p
R23 N035 0 1.5k
C23 N035 0 2.2µ
R10 N002 N001 3.3Meg
C10 N002 N001 20p
R11 N002 0 680k
XV3B N017 N029 N035 12AX7
VC N010 0 410
R26 N017 N010 82k
C24 N030 0 1000p
R24 N030 0 68k
R25 N030 N018 270k
C25 N018 N017 .022µ
XV4A N025 N030 N034 12AX7
R30 N034 0 3.3k
C29 N034 0 .22µ
R27 N025 N010 274k
C30 N026 N025 .047µ
C31 N002 N026 250p
R31 N002 N026 220k
XV2B N021 N002 N036 12AX7
R16 N036 0 1.5k
R13 N006 N021 100k
C9 P001 N021 .047µ
R105 N022 P001 47k
R46 N022 0 47k
R102 N022 N032 150k
R101 N032 0 4.7k
XV2A N012 N023 N031 12AX7
R19 N006 N012 120k
C12 N013 N012 .047µ
RA_MASTER N014 0 {1Meg*(master)}
VC2 N006 0 410
R103 N023 0 47k
C11 N002 0 47p
C16 N031 0 .47µ
C15 N031 0 15µ
R104 N031 0 1k
R12 N023 N032 2.2k
C21 N001 N011 .02µ
C32 N002 0 500p
R32 N002 0 100k
R106 N014 N013 15k
E1 wout 0 N014 0 {1/1400}

.param treble=0.8
.param mid=0.33
.param bass=0.05
.param gain=0.5
.param master=0.5
.param vol1=0.75

****************************************************
.SUBCKT 12AX7 1 2 3; A G C;
X1 1 2 3 TriodeK MU= 96.20 EX=1.437 KG1= 613.4 KP= 740.3 KVB= 1672. RGI=2000 CCG=0.0P  CGP=0.0P CCP=0.0P ;
.ENDS

.SUBCKT TriodeK 1 2 3; A G C
E1 7 0 VALUE={V(1,3)/KP*LOG(1+EXP(KP*(1/MU+V(2,3)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={0.5*(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G    ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG}  ; CATHODE-GRID
C2 2 1 {CGP}  ; GRID-PLATE
C3 1 3 {CCP}  ; CATHODE-PLATE
D3 5 3 DX     ; FOR GRID CURRENT
R1 2 5 {RGI}  ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS TriodeK
****************************************************

.tran 0.0000026 10
.wave mkiic+-out.wav 16 48000 V(wout)
.backanno
.end
