* MKIIC+
R5 N004 N015 100k
R5A N008 N007 100000
R4 N003 N004 150000
R1 N019 0 1e+06
R2 N033 0 1500
R7 N028 0 1500
R8 N003 N009 100000
R9 N001 0 100000
R21 N011 N025 680000
R22 N029 0 475000
R23 N035 0 1500
R10 N002 N001 3.3e+06
R11 N002 0 680000
R26 N017 N010 82000
R24 N030 0 68000
R25 N030 N018 270000
R30 N034 0 3300
R27 N026 N010 274000
R31 N002 N027 220000
R16 N036 0 1500
R13 N006 N021 100000
R105 N022 P001 47000
R102 N022 N032 150000
R101 N032 0 4700
R19 N006 N012 120000
R103 N023 0 47000
R104 N031 0 1000
R12 N023 N032 2200
R106 N014 N013 15000
R32 N002 0 100000
C6 N005 N004 7.5e-10
C5 N005 N004 2.5e-10
C4 N016 N015 1e-07
C3 N024 N015 4.7e-08
C13B N020 N008 1.8e-10
C1 N033 0 4.7e-07
C2 N033 0 2.2e-05
C13 N028 0 2.2e-05
C7 N001 N009 1e-07
C22 N035 N029 1.2e-10
C23 N035 0 2.2e-06
C10 N002 N001 2e-11
C24 N030 0 1e-09
C29 N034 0 2.2e-07
C30 N027 N026 4.7e-08
C31 N002 N027 2.5e-10
C9 P001 N021 4.7e-08
C12 N013 N012 4.7e-08
C11 N002 0 4.7e-11
C16 N031 0 4.7e-07
C15 N031 0 1.5e-05
C21 N001 N011 2e-08
C32 N002 0 5e-10
C25 N018 N017 2.2e-08
Rv_bass N016 N024 {250000*(1-bass}
.param bass 0.05
Rv_lead_master N022 0 {250000*(1-lead_master}
.param lead_master 0.812
Rv_master N014 0 {1e+06*(1-master}
.param master 0.5
Rv_mid N024 0 {10000*(1-mid}
.param mid 0.33
Rpa_lead_drive N025 N029 {1e+06*(1-lead_drive}
Rpc_lead_drive N029 0 {1e+06*(lead_drive}
.param lead_drive 0.5
Rpa_treble N005 N007 {250000*(1-treble}
Rpc_treble N007 N016 {250000*(treble}
.param treble 0.8
Rpa_volume1 N008 N020 {1e+06*(1-volume1}
Rpc_volume1 N020 0 {1e+06*(volume1}
.param volume1 0.75
XV1A N004 N019 N033 12AX7
XV1B N009 N020 N028 12AX7
XV3B N017 N029 N035 12AX7
XV4A N026 N030 N034 12AX7
XV2B N021 N002 N036 12AX7
XV2A N012 N023 N031 12AX7
Vin N019 0 wavefile=di-cut.wav
VE N003 0 405
VC N010 0 410
VC2 N006 0 410
Ewout wout 0 N014 0 {1/1400}
.wave mkiicp-out.wav 16 48000 V(wout)
.inc 12AX7.cir
.tran 0.0000026 10
.backanno
.end
